US06031100
To 200.0 g of polyphosphoric acid (118%) were added 30.0 g (71.7 mmol) of 2,5-bis(p-chloroanilino)terephthalic acid and 0.6 g of phthalimidomethylquinacridone. The stirred mixture was irradiated in the microwave oven for 2.0 minutes. The reaction mixture was cooled to 150° C. and drowned in 400 g of methanol with vigorous stirring. The resultant methanol suspension was maintained at reflux for one hour, cooled to 60° C., added to 800 g of water, and heated at 60° C. for 30 minutes. The solid component was collected by filtration and washed with 8.0 liters of water. The presscake was dried overnight in an oven at 60° C. to give 28.0 g of 2,9-dichloroquinacridone (C. I. Pigment Red 202).

reactant | 2,5-bis(p-chloroanilino)terephthalic acid | 71.7 mmol, 30.0 g | ClC1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)C(=O)O)NC2=CC=C(C=C2)Cl)C=C1 | C20H14Cl2N2O4
reactant | water | 800 g | O | H2O
solvent | methanol | 400 g | CO | CH4O
product | 2,9-dichloroquinacridone | 28.0 g | C1=CC2=C(C=C1Cl)C(=O)C3=CC4=C(C=C3N2)C(=O)C5=C(N4)C=CC(=C5)Cl | C20H10Cl2N2O2
